US09351965B2
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.2 mmol, 100 mg), HCl salt of (3-amino-1-(3-fluorophenoxy)cyclohexyl)methanol (0.2 mmol, 55 mg), HATU (0.2 mmol, 76 mg) and DIEA in DMA was stirred at room temperature for overnight. The product, N-(3-(3-fluorophenoxy)-3-(hydroxymethyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after evaporation of solvent.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.2 mmol, 100 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HCl | Cl | ClH
reactant | (3-amino-1-(3-fluorophenoxy)cyclohexyl)methanol | 0.2 mmol, 55 mg | NC1CC(CCC1)(OC1=CC(=CC=C1)F)CO | C13H18FNO2
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | N-(3-(3-fluorophenoxy)-3-(hydroxymethyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC=1C=C(OC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)CO)C=CC1 | C46H41FN4O3
